US04287335
In 50 ml of methanol, 12.7 g of 1,2-dimethylpyridinium iodide and 11.96 g of p-(2,2-dimethoxyethoxy)benzaldehyde were dissolved. The resultant solution, with 1 ml of piperidine added thereto, was refluxed for five hours. The solution was left to cool and the crystals which consequently deposited in the solution were collected through filtration and thoroughly washed with acetone. Consequently, there was obtained 16.30 g of 1-methyl-2[p-(2,2-dimethoxyethoxy)-styryl]pyridinium iodide. In water, this product showed the highest absorption at 360 nm (ε=2.67×104). The infrared absorption spectrum (KBr) of the product showed peaks at 1630, 1615, 1595, 1568, 1512, 1450, 1298, 1260, 1180, 1140, 1073, 965, 862, 821 and 776 cm-1. The yield was 67%.

reactant | 1,2-dimethylpyridinium iodide | 12.7 g | [I-].C[N+]1=C(C=CC=C1)C
reactant | p-(2,2-dimethoxyethoxy)benzaldehyde | 11.96 g | COC(COC1=CC=C(C=O)C=C1)OC | C11H14O4
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
solvent | methanol | 50 ml | CO | CH4O
product | 1-methyl-2[p-(2,2-dimethoxyethoxy)-styryl]pyridinium iodide | 16.30 g, yield was 67% | [I-].C[N+]1=C(C=CC=C1)C=CC1=CC=C(C=C1)OCC(OC)OC | InChI=1S/C18H22NO3.HI/c1-19-13-5-4-6-16(19)10-7-15-8-11-17(12-9-15)22-14-18(20-2)21-3;/h4-13,18H,14H2,1-3H3;1H/q+1;/p-1
